US08461160B2
N-[3-((S)-2-Amino-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-4-yl)-phenyl]-nicotinamide
The coupling of [(S)-4-(3-amino-phenyl)-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester from experiment F1 and nicotinic acid followed by deprotection of the intermediate yielded the title compound as a colourless solid. MS (ESI): m/z=338.4 [ M+H]+.

reactant | [(S)-4-(3-amino-phenyl)-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1N(C(C[C@@](N1)(C)C1=CC(=CC=C1)N)=O)C)=O | C17H24N4O3
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | N-[3-((S)-2-Amino-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-4-yl)-phenyl]-nicotinamide | NC=1N(C(C[C@@](N1)(C)C=1C=C(C=CC1)NC(C1=CN=CC=C1)=O)=O)C | C18H19N5O2
